US07759337B2
Synthesis of N-cyclopropyl-3-(1-mesitylphthalazin-6-yl)-4-methylbenzamide
A mixture of 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (0.110 g, 326 μmol), 2,4,6-trimethylbenzeneboronic acid (53 mg, 326 μmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(ii) dichloromethane adduct (12mg, 16 μmol) in 5 mL toluene/ethanol (4:1) was treated with 2 M potassium carbonate (488 μl, 977 μmol). The mixture was stirred at 100° C. under nitrogen and followed by MS for about 15 h. (product MS=422 (M+1)). The mixture was concentrated under vacuum and the crude product was purified via flash chromatography (silica gel) eluting with a gradient of 2% 2 M ammonia in MeOH/DCM to 6% 2 M ammonia in MeOH/DCM to give the title compound (80 mg). Found MS (ES+): 422(M+H)+.

reactant | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 326 μmol, 0.110 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
reactant | 2,4,6-trimethylbenzeneboronic acid | 326 μmol, 53 mg | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | potassium carbonate | 977 μmol, 2 M, 488 μl | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol | 5 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(ii) dichloromethane | 16 μmol, 12mg | ClCCl.[Pd+2].[Cl-].[Cl-].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-cyclopropyl-3-(1-mesitylphthalazin-6-yl)-4-methylbenzamide | 80 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)C1=C(C=C(C=C1C)C)C)=O | C28H27N3O
